US06432608B1
To 70 g (0.397 mole) of p-tert-butoxystyrene and 35.4 g (0.170 mole) of isobomyl acrylate was added 1.5 g of 2,2′-azobis(methyl 2-methylpropionate), followed by conducting a polymerization reaction in 1,4-dioxane under nitrogen gas streams at 80° C. for 6 hours. After cooling, the reaction solution was poured into 5000 ml of aqueous methanol solution to precipitate out. Crystal was recovered by filtration and dried under reduced pressure to give 102.2 g of poly(p-tert-butoxystyrene/isobomyl acrylate) as white powdery crystal. A weight-average molecular weight was found about 56000 by GPC measurement using polystyrene as a standard.

reactant | p-tert-butoxystyrene | 0.397 mole, 70 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | isobomyl acrylate | 0.170 mole, 35.4 g | C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-]
reactant | 2,2′-azobis(methyl 2-methylpropionate) | 1.5 g | N(=NC(C(=O)[O-])(CC)C)C(C(=O)[O-])(CC)C
reactant | methanol | 5000 ml | CO | CH4O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | p-tert-butoxystyrene isobomyl acrylate | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-] | InChI=1S/C13H20O2.C12H16O/c1-8(11(14)15)10-7-9-5-6-13(10,4)12(9,2)3;1-5-10-6-8-11(9-7-10)13-12(2,3)4/h9-10H,1,5-7H2,2-4H3,(H,14,15);5-9H,1H2,2-4H3/p-1/t9-,10?,13-;/m1./s1
